US06710056B2
3-Phenylbenzoic acid:
0.90 g of methyl 3-phenylbenzoate was fed into 20 ml of a solvent mixture of aqueous solution of 2 M of sodium hydroxide, tetrahydrofuran and methanol (4/2/1) to conduct the reaction at 70° C. for 2 hours. The solvent was evaporated, and the residue was fed into 3 M of hydrochloric acid. The precipitate thus formed was taken by the filtration and dried to obtain the title compound in the form of white crystals.

reactant | methyl 3-phenylbenzoate | 0.90 g | C1(=CC=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C14H12O2
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 3-Phenylbenzoic acid | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O2
